US07572820B2
1-{[5-(4-Acetylphenyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 72 from 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide and 4-acetylbenzoic acid: MS (ESI): m/z 411 (M+1).

reactant | 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide | C(#N)C=1C(=C2C=CN(C2=CC1)CC(NO)=N)C(F)(F)F | C12H9F3N4O
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 1-{[5-(4-Acetylphenyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(C)(=O)C1=CC=C(C=C1)C1=NC(=NO1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C21H13F3N4O2
